US04143042
In 40 ml of dimethylformamide was dissolved 1.82 g of 2-amino-6-ethyl-4-oxo-4H-1-benzopyran-3-carboxaldehyde, followed by the addition of 3.5 g of cyanoacetyl chloride. The mixture was reacted at 60° C. for 3 hours, with constant stirring. The solvent was then distilled off under reduced pressure and the residue was chromatographed on silica gel. The desired product was recovered from the chloroform eluate and recrystallized from acetonitrile. By the above procedure was obtained 1.03 g of 7-ethyl-3-cyano-1-azaxanthone, m.p. 183°-185° C.

reactant | 2-amino-6-ethyl-4-oxo-4H-1-benzopyran-3-carboxaldehyde | 1.82 g | NC=1OC2=C(C(C1C=O)=O)C=C(C=C2)CC | C12H11NO3
reactant | cyanoacetyl chloride | 3.5 g | C(#N)CC(=O)Cl | C3H2ClNO
reactant | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 7-ethyl-3-cyano-1-azaxanthone | 1.03 g | C(C)C1=CC=C2OC=3C=C(C=NC3C(C2=C1)=O)C#N | C15H10N2O2
